US07585874B2
2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester
As described for Example 1, 4-(bromoacetyl)-5-methyl-3-phenylisoxazole (commercially available) (140 mg, 0.5 mmol) was converted, using methyl 6-aminonicotinate instead of 2-aminopyridine, to the title compound (64 mg, 38%) which was obtained as a light yellow solid. MS: m/e=334.3 [M+H]+.

reactant | 4-(bromoacetyl)-5-methyl-3-phenylisoxazole | BrCC(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C12H10BrNO2
reactant | methyl 6-aminonicotinate | NC1=NC=C(C(=O)OC)C=C1 | C7H8N2O2
product | 2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester | 64 mg, 38% | COC(=O)C=1C=CC=2N(C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C19H15N3O3
